US05420132
Under a nitrogen atmosphere, slowly add 75 mmol of a 10% aqueous sodium hydroxide solution to a solution of 2 g (7.5 mmol) of ethyl 7-acetoxy-2,3-dihydro-1,4-benzodioxin-2-carboxylate in 20 cm3 of methanol. Stir at room temperature for 6 hours and then, after concentrating under reduced pressure, acidify the mixture with a 2N hydrochloric acid solution. Extract with diethyl ether the acid which precipitates, then, after drying and concentration to dryness, wash the resulting acid with methylene chloride. 7-Hydroxy-2,3-dihydro-1,4-benzodioxin-2-carboxylic acid is thereby obtained in a yield of 85%.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl 7-acetoxy-2,3-dihydro-1,4-benzodioxin-2-carboxylate | 7.5 mmol, 2 g | C(C)(=O)OC=1C=CC2=C(OC(CO2)C(=O)OCC)C1 | C13H14O6
solvent | methanol | 20 cm3 | CO | CH4O
product | 7-Hydroxy-2,3-dihydro-1,4-benzodioxin-2-carboxylic acid | yield of 85% | OC=1C=CC2=C(OC(CO2)C(=O)O)C1 | C9H8O5
